US06235778B1
d) N-[3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxy]phthalimide
Diethyl azodicarboxylate (67 (L, 0.40 mmol) was added dropwise over 5.5 min to 3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propanol (118 mg, 0.33 mmol, prepared in the preceding step), triphenylphosphine (106 mg, 0.40 mmol), and N-hydroxyphthalimide (55 mg, 0.33 mmol) in anhydrous tetrahydrofuran (3 mL) at 0° C. under a nitrogen atmosphere. The solution was stirred at 0° C. for an additional 20 min then at ambient temperature overnight. The reaction mixture was concentrated, and the residue was purified by flash column chromatography (dichloromethane) to give the title compound (116 mg, 69%) as a colorless resin. 1H-NMR (300 MHz, CDCl3) (7.88-7.73 (m, 5H), 7.61 (ddd, 1H, J=8.4, 7.4, 1.7 Hz), 7.10 (d, 1H, J=8.4 Hz), 7.01 (dt, 1H, J=7.7, 0.9 Hz), 6.60 (br s, 1H), 6.56, (br s, 1H), 6.42 (t, 1H, J=2.2 Hz), 4.36 (t, 2H, J=6.2 Hz), 4.09 (t, 2H, J=6.2 Hz), 4.04 (s, 3H), 2.25 (s, 3H), 2.18 (pentet, 2H, J=6.2 Hz). Mass spectrum (MALDI-TOF, α-cyano-4-hydroxycinnamic acid matrix) calcd. for C25H23NO8S: 520.1 (M+Na). Found: 520.2.

reactant | Diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 3-[3-(2-methoxyphenylsulfonyloxy)-5-methylphenoxy]propanol | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCO)C=C(C1)C | C17H20O6S
reactant | triphenylphosphine | 0.40 mmol, 106 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | N-hydroxyphthalimide | 0.33 mmol, 55 mg | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | N-[3-[3-(2-Methoxyphenylsulfonyloxy)-5-methylphenoxy]propoxy]phthalimide | 116 mg, 69% | COC1=C(C=CC=C1)S(=O)(=O)OC=1C=C(OCCCON2C(C=3C(C2=O)=CC=CC3)=O)C=C(C1)C | C25H23NO8S
